US07151111B2
d) (RS)-(E)-(1-{4-[2-(3-Fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidin-3-yl)-carbamic acid tert-butyl ester
A solution of 150 mg (0.46 mmol) of (RS)-(E)-1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidine-3-carboxylic acid in 2 ml of tetrahydrofurane is cooled to −15° C. and 63 mg (0.46 mmol) of isobutyl chloroformate are added dropwise. After 5 min, a solution of 60 mg (0.92 mmol) of sodium azide in 0.5 ml water is added. The mixture is stirred at 0° C. for 45 min, then left to warm to RT. Toluene is added and the diluted solution is washed with a saturated solution of sodium hydrogencarbonate. The organic layer is separated, dried over magnesium sulfate, and evaporated under reduced pressure. The residue is dissolved in 5 ml of toluene and the solution warmed to 80° C. After 30 min, 1.1 ml (1.2 mmol) of tert-butanol are added and heating is continued for 18 hours. For the working-up, the reaction mixture is evaporated and the crude product directly chromatographed on silica gel using a 95:5-mixture of dichloromethane and methanol as the eluent. After crystallisation from ether, 104 mg (57% of theory) of (RS)-(E)- (1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidin-3-yl)-carbamic acid tert-butyl ester are obtained as a light yellow solid; MS: m/e=397 (M+H)+.

reactant | (RS)-(E)-1-{4-[2-(3-fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidine-3-carboxylic acid | 0.46 mmol, 150 mg | FC=1C=C(C=CC1)/C=C/C1=CC=C(C=C1)N1CC(CC1=O)C(=O)O | C19H16FNO3
reactant | isobutyl chloroformate | 0.46 mmol, 63 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | sodium azide | 0.92 mmol, 60 mg | [N-]=[N+]=[N-].[Na+]
reactant | tert-butanol | 1.2 mmol, 1.1 ml | C(C)(C)(C)O | C4H10O
solvent | tetrahydrofurane | 2 ml | O1CCCC1 | C4H8O
solvent | water | 0.5 ml | O | H2O
solvent | Toluene | C1(=CC=CC=C1)C | C7H8
product | (RS)-(E)-(1-{4-[2-(3-Fluoro-phenyl)-vinyl]-phenyl}-5-oxo-pyrrolidin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CN(C(C1)=O)C1=CC=C(C=C1)\C=C\C1=CC(=CC=C1)F)=O | C23H25FN2O3
